US03950406
Preparation of 8-triphenylmethoxy-1-octyne
To a stirred suspension of 68.1 g. (0.18 moles) of 1-chloro-6-triphenylmethoxyhexane, prepared from 1-chloro-6-hydroxyhexane and triphenylmethyl chloride in the manner of Example 277, in 60 ml. of dimethylsulfoxide is added a solution of 19.9 g. (0.216 moles) of lithium acetylideethylenediamine complex in 120 ml. of dimethylsulfoxide during 20 minutes. The temperature is maintained at 25°C. with an ice bath during the addition, after which the mixture is stirred at ambient temperature for 3.5 hours and then at 30°C. for 15 minutes. The mixture is diluted with 100 ml. of ether and treated dropwise with 150 ml. of water with ice bath cooling. The mixture is diluted with 400 ml. of water and 250 ml. of 2:1 ether-pet ether and acidified with 120 ml. of 4N hydrochloric acid in the ice bath. The phases are separated, and the aqueous phase is extracted with 3:1 ether-pet ether. The combined extracts are washed successively with water and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. Column chromatography of the residue on Florisil affords the subject compound as white crystals, m.p. 43°-45°C. after recrystallization from pet-ether, ν max 3300 (acetylenic hydrogen), 2360 (triple bond), 1600, 1068, and 706 cm-1 (triphenylmethoxy group).

reactant | 1-chloro-6-triphenylmethoxyhexane | 0.18 moles | ClCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27ClO
reactant | 1-chloro-6-hydroxyhexane | ClCCCCCCO | C6H13ClO
reactant | triphenylmethyl chloride | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | lithium | 0.216 moles | [Li] | Li
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 8-triphenylmethoxy-1-octyne | C1(=CC=CC=C1)C(OCCCCCCC#C)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28O
